US06949550B2
Part B. Preparation of 2-(4-Methoxyphenyl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid [1-(2-{[(2-hydroxyethyl)methylamino]-methyl}phenyl)piperidin-4-yl]amide
A small reaction vessel was charged with the compound of from Part A (0.053 g, 0.20 mmol), 2-(4-Methoxyphenyl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid (0.037 g, 0.13 mmol), 4-methylmorpholine (36 ul, 0.33 mmol) and DMF (3 mL). While stirring under N2, Castro's Reagent (0.089 g, 0.20 mmol) was added and the reaction mixture was allowed to stir at room temperature for 48 h. The reaction was concentrated and purified by prep LC/MS to obtain the target compound. (0.016 g, 23% yield). 1HNMR (DMSO-d6) δ 8.72 (d, 1H), 7.50-7.41 (m, 7H), 7.34-7.23 (t, 1H), 7.08-7.03 (d, 2H), 4.49-4.45 (m, 2H), 3.81 (s, 3H), 3.77 (m, 2H), 3.14 (m, 2H), 2.98 (m, 2H), 2.80 (bs, 4H), 1.89 (m, 2H), 1.71 (m, 2H); MS (ESI+) m/z 532.5, (M+H)+.

reactant | 2-(4-Methoxyphenyl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid | 0.13 mmol, 0.037 g | COC1=CC=C(C=C1)N1N=C(C=C1C(=O)O)C(F)(F)F | C12H9F3N2O3
reactant | 4-methylmorpholine | 0.33 mmol, 36 ul | CN1CCOCC1 | C5H11NO
reactant | Castro's Reagent | 0.20 mmol, 0.089 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=CC=CC=C2N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(4-Methoxyphenyl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid [1-(2-{[(2-hydroxyethyl)methylamino]-methyl}phenyl)piperidin-4-yl]amide | 23% yield | OCCN(C)CC1=C(C=CC=C1)N1CCC(CC1)NC(=O)C=1N(N=C(C1)C(F)(F)F)C1=CC=C(C=C1)OC | C27H32F3N5O3
